US07138401B2
A solution of 6-chloro-9-(3,4,5-trimethoxy-benzyl)-9H-purin-2-ylamine in acetic acid was treated with fuming HNO3 at 0° C. for 15 min. Work-up and preparative TLC (EtOAc:hexane 1:1) gave N-[6-chloro-9-(3,4,5-trimethoxy-benzyl)-9H-purin-2-yl]-acetamide. HPLC Rt: 5.744 min. 1H-NMR (CDCl3): δ 8.09 (s, 1H), 6.58 (s, 2H), 5.33 (s, 2H), 3.85 (s, 3H), 3.85 (s, 6H), 2.43 (s, 3H).

reactant | 6-chloro-9-(3,4,5-trimethoxy-benzyl)-9H-purin-2-ylamine | ClC1=C2N=CN(C2=NC(=N1)N)CC1=CC(=C(C(=C1)OC)OC)OC | C15H16ClN5O3
reactant | HNO3 | [N+](=O)(O)[O-] | HNO3
reactant | EtOAc hexane | CCOC(=O)C.CCCCCC
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | N-[6-chloro-9-(3,4,5-trimethoxy-benzyl)-9H-purin-2-yl]-acetamide | ClC1=C2N=CN(C2=NC(=N1)NC(C)=O)CC1=CC(=C(C(=C1)OC)OC)OC | C17H18ClN5O4
